US07109229B2
(a) (4-Methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester
A solution of 4-methoxy-indole (1.04 g, 7.07 mmol) in Et2O (150 mL) cooled to 0–5° C. was treated with oxalyl chloride (0.7 mL, 8.0 mmol). After 1h, the orange solution was allowed to warm to room temperature and stirred 2.5 h. Additional oxalyl chloride (0.25 mL, 2.9 mmol) was then added. After stirring 3 h at room temperature, the mixture was cooled to −78° C. and a 25% solution of sodium methoxide in methanol (5.4 mL, 23.4 mmol) added. The suspension was warmed to room temperature, stirred 3 h and neutralized by the addition of pH 7 buffer. The mixture was poured into EtOAc and the organic layer was separated and washed with saturated aq sodium bicarbonate, brine, dried (MgSO4) and concentrated to a dark oil. Trituration with Et2O (75 mL) afforded the title compound as a green solid (0.848 g, 51%) which was used without further purification. 1H NMR (400 MHz, DMSO-d6) 12.40 (s, 1H), 8.20 (d, J=4.3 Hz, 1H), 7.19 (dd, J=7.8, 7.8 Hz, 1H), 7.12 (d, J=7.8 Hz, 1H), 6.73 (d, J=7.8 Hz, 1H), 3.84 (s, 3H), 3.82 (s, 3H). MS (electrospray, m/z) 234.0 (M++1), 232.1 (M−−1).

reactant | 4-methoxy-indole | 7.07 mmol, 1.04 g | COC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | oxalyl chloride | 8.0 mmol, 0.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 2.9 mmol, 0.25 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 23.4 mmol, 5.4 mL | CO | CH4O
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Methoxy-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.848 g, 51% | COC(C(=O)C1=CNC2=CC=CC(=C12)OC)=O | C12H11NO4
